.SUBCKT LM308A     3 2 7 4 6 1 8 
* USE C=30 PF IN MAIN CIRCUIT (CA TO CB).
* INPUT
RC1 7 80 8.842E+03
RC2 7 90 8.842E+03
Q1 80 2 10 QM1 
Q2 90 3 11 QM2 
DDM1 2 3 DM2 
DDM2 3 2 DM2 
C1 80 90 5.460E-12
RE1 10 12 2.245E+02
RE2 11 12 2.245E+02
IEE 12 4 6.003E-06
RE 12 0 3.332E+07
CE 12 0 1.579E-12
* INTERMEDIATE 
GCM 0 8 12 0 3.576E-10
GA 8 0 80 90 1.131E-04
R2 8 0 1.000E+05
* EXTERNAL COMP CAP USED FOR C2 (SEE NOTE ABOVE).
GB 1 0 8 0 3.146E+01
* OUTPUT 
RO1 1 6 1.111E+02
RO2 1 0 8.889E+02
RC 17 0 3.533E-04
GC 0 17 6 0 2.830E+03
D1 1 17 DM1 
D2 17 1 DM1 
D3 6 13 DM2 
D4 14 6 DM2 
VC 7 13 1.766E+00
VE 14 4 1.766E+00
IP 7 4 2.940E-04
DSUB 4 7 DM2 
* MODELS 
.MODEL QM1 NPN (IS=8.000E-16 BF=1.875E+03)
.MODEL QM2 NPN (IS=8.093E-16 BF=2.143E+03)
.MODEL DM1 D (IS=1.192E-10)
.MODEL DM2 D (IS=8.000E-16)
.ENDS LM308A
