.SUBCKT LT1083     1   2   3 
*
* power section
* power transistor 
QPWR 41 42 43  Q1
RBASE 42 43 1.0E3
RDROP 43  2  0.03  TC=-6.0E-3
VCURR 3  41  DC 0
QDRV 42 44  41 Q2
RDRV 50 44 1.0E5
* current limit with SOA protection
* 9.5A limiter
HCL1 15 0 VCURR 0.0875
DCL1 15 16 DX
VCL1 16 21 DC 0
FCL1 0 50 VCL1 5.0E2
* SOA protection
* P0 of GCL1defines threshold1 / knee voltage1
* RCL2 defines decay factor
GCL1 0 17 POLY(1) 3 2 -6.0E-3 1.0E-3
RCL1 0 17 1.0E3
DCL2 17 18 DX
RCL2 18 0 50E3
*  square characteristic
* VCL2 defines lower limit resp. second knee voltage
GCL2 0 19 POLY(1) 18 0  0 0 1.0E-4
RCL3 19 0 1.0E3
DCL3 19 20 DX
VCL2 20 0 DC 17.8
ECL1 21 0 19 0 -4.0E-2
* error amplifier
* amplifier with 80 dB gain
GEA2 0 50  2  7   32.0
REA2 50 0 1.0E3
DEAP 50 51 DX
EEAP 51 0 POLY(1) 3 0 -0.9 1.0
DEAN 52 50 DX
VEAN 52 0 DC 0.9
* feedback for transient response
RF 50 55  10
CF 55 7  14.4E-11
* adjust pin current
GADJ1 0 8 2 1 44.0E-6
RADJ 8 0 1.0E6 TC=0.003
GADJ2 3 1 8 0 -1.0E-6
* voltage reference (1.250V)
* 1.250V reference
* no temperature drift required as curve swings around 1.25V
IREF1  1  7   DC 1.250E-3
RREF1 7  1  1.0E3 
* load regulation (Iload: 10mA -> 7.5A / -60 mV at 10V output)
FLOAD 7 1  VCURR 0.95E-6
* models used
.MODEL DX D IS=8.0000E-016 RS=0 XTI=0
.MODEL Q1 NPN IS=1.0E-14 BF=450 RC=0 RE=0 XTI=0 
.MODEL Q2 PNP IS=1.0E-16 BF=1250 RC=0 RE=0 XTI=0 
.ENDS LT1083
