.SUBCKT LT1113     1 2 3 4 5
*
GRP1 1 111 1 111 1.0000e-001
GRP2 2 112 2 112 1.0000e-001
DIP1 114 111 DX
DIP2 115 112 DX
DIP3 116 114 DX
DIP4 116 115 DX
VCM 116 4 DC 4.3250e+000
RCMP 114 117 1.0000e+004
ECMP 117 4 111 4 1.0
RCMN 115 118 1.0000e+004
ECMN 118 4 112 4 1.0
CIN 111 112 1.2711e-011
GRIN 111 112 111 112 1.0000e-011
M1 11 112 10 10 M1 L=100U W=100U
M2 12 113 10 10 M2 L=100U W=100U
RD1 3 11 1.9044e+003 TC=-8.1097e-005
RD2 3 12 1.9044e+003 TC=8.1097e-005
DI1 113 3 DI1
DI2 112 3 DI2
C1 11 12 5.2232e-012
IEE 10 4 DC 1.0502e-003
GA 60 99 11 12 5.2509e-004
IR1 0 101 DC 1
IR2 0 102 DC 1
DR1 101 0 DRI
DR2 102 0 DRI
GRI1 99 1 101 102 5.5650e-008
IR3 0 103 DC 1
IR4 0 104 DC 1
DR3 103 0 DRI
DR4 104 0 DRI
GRI2 99 2 103 104 5.5650e-008
RRu 605 0 9.2679e+000
VRu 605 0 DC 0
FRu 99 60 VRu 1
GCM1 99 20 POLY(2) 111 99 112 99 0 5.0000e-004 5.0000e-004
RCM1 21 99 1.000000e+003
RCM2 20 99 1.0000e+006
LCM 20 21 1.0610e-002
ECM 113 111 20 99 1.7783e-005
RP1 601 99 1.9048e+003
CP1 60 601 3.3423e-011
RP11 60 99 1.0000e+004
GP1 99 61 60 99 1.0000e-004
RP2 611 99 1.4545e+004
LP2 61 611 9.2599e-004
RP22 61 99 3.2000e+004
GP2 99 6 61 99 1.0000e-004
R2 6 99 1.0000e+003
C2 6 7 2.3754e-010
GB 7 99 6 99 6.3812e+003
R01 7 99 7.0000e+001
R02 7 50 1.0000e-001
R03 50 5 6.9900e+001
R04 5 99 1.0000e+012
VC 53 50 DC 2.1000e+000
VE 54 50 DC -1.7000e+000
DC1 53 55 DX
DC2 55 56 DX
DE1 57 54 DX
DE2 58 57 DX
GVC1 3 56 3 56 1.0E-4
GVE1 4 58 4 58 1.0E-4
GVC2 3 55 3 55 1.0E-5
GVE2 4 57 4 57 1.0E-5
GVLP 99 60 56 3 1.0000e+000
GVLN 99 60 58 4 1.0000e+000
ECLP 91 0 7 50 5.0000e+002
ECLN 92 0 7 50 5.0000e+002
DCLP 91 90 DX
DCLN 90 92 DX
VLIM 90 0 DC 0
FB 7 99 VLIM 1.3259e+002
EGND 99 0 POLY(2) 3 0 4 0 0 0.5 0.5
DSUB 4 3 DX
IP 3 4 DC 4.2498e-003
GV 31 0 7 50 1.0000e+001
DP1 3 31 DX
DP2 33 4 DX
RGV 32 33 10.0
EGV 31 32 POLY(1) 3 4 -0.85 1.0
.MODEL DX D IS=8.0000e-016 RS=0 XTI=0
.MODEL M1 NMOS LEVEL=3 KP=9.5221e-002 VTO=1.000258e+000 KF=7.9898e-028
.MODEL M2 NMOS LEVEL=3 KP=9.5221e-002 VTO=9.997418e-001 KF=7.9898e-028
.MODEL DI1  D IS=3.6931e-010 EG=2.5981e-001 XTI=3.0000e+000
.MODEL DI2  D IS=3.3187e-010 EG=2.6997e-001 XTI=3.0000e+000
.MODEL DRI D IS=8.0000e-016 KF=3.1436e-027 RS=0 XTI=0
.ENDS LT1113
