.SUBCKT LT1116     1   2   3   4   5   6   7   8
XCOMP  2  3  7  8  1  4  6  5  COMP1116
** nested subcircuit: COMP1116
.SUBCKT COMP1116   1   2   101 102 200 300 400 500
*
* input stage
CIN 2 1 5.0000e-012
RIN 2 1 5.0000e+006
ROFF1 301 0 1.0010e+000 TC=-5.0000e-006
ROFF2 302 0 1.0000e+000
IOFF1 0 301 DC 1
IOFF2 0 302 DC 1
EOFF 3 1 301 302 1
ROFF 3 1 1.0000e+009
IBP 303 0 DC 1.0250e-005
RBP 303 0 1E6 TC=-1.4333e-003
GBP 1 401 303 0 1e-6
IBN 304 0 DC 9.7500e-006
RBN 304 0 1E6 TC=-1.2333e-003
GBN 2 401 304 0 1e-6
* delay stage
G1 401 20 3 2 2.7449e+000
R1 20 401 1.0000e+003
D1P 20 21 DX
D1N 22 20 DX
V1P 21 401 DC 2.0587e+001
V1N 22 401 DC -2.0587e+001
G2 401 23 20 401 1.0000e-003
R2 23 401 1.0000e+003
R21 27 401 5.0000e+003
D2 23 27 DX
CD 23 401 2.1084e-012
* common mode stage
GCM1 401 19 POLY(2) 1 401 2 401 0 5.0000e-004 5.0000e-004
RCM1 18 401 1.000000e+003
RCM2 19 401 1.0000e+006
LCM 19 18 5.6841e-004
GCM2 401 20 19 401 4.7594e-005
* slewrate stage
G3 401 24 23 401 1.0000e-003
R3 24 401 1.0000e+003
D3P 24 25 D3P
D3N 26 24 D3N
V3P 25 401 DC 4.9516e+000
V3N 26 401 DC -6.2760e+000
G41 401 30 24 401 1.0000e-003
R41 30 401 1.0000e+003
G42 401 31 24 401 2.1773e-003
R42 31 401 1.0000e+003
D5 31 30 DX
CR 30 401 1.7536e-011
D4P 30 32 DX
D4N 33 30 DX
E4P 32 401 POLY(2) 200 401 300 401 -1.4399e+000 5.0000e-001 0.0000e+000
E4N 401 33 POLY(2) 200 401 300 401 -1.4399e+000 5.0000e-001 0.0000e+000
* phase shifter
G5 401 40 30 401 1.0000e-003
R5 40 401 1.0000e+003
LA 40 41 4.7746e-008
CA 41 401 2.9842e-013
* latch stage
RTTL1 500 200 1.0000e+012
DTTL 501 500 DX
RTTL2 501 502 2.0400e+004
VTTL 503 502 DC 0
ETTL 200 503 200 401 0.35
FLATCH 401 523 POLY(1) VTTL 100E-3 -1.6000e+003
RLATCH1 523 401 1.0000e+003
VL1P 546 401 DC 20
DL1P 523 546 DLATCH
VL1N 401 547 DC 20
DL1N 547 523 DLATCH
EINV 401 548 523 401 1
ELATCH 545 401 41 401 1
CHOLD 549 401 1.0000e-007
RHOLD 542 401 1.0000e+012
RLATCH2 545 401 1.0000e+012
RLATCH3 548 401 1.0000e+012
M1 545 523 542 546 SPMOS L=100U W=100U
M2 542 548 545 547 SNMOS L=100U W=100U
M3 545 523 549 546 SPMOS L=100U W=100U
M4 549 548 545 547 SNMOS L=100U W=100U
M5 549 548 542 546 SPMOS L=100U W=100U
M6 542 523 549 547 SNMOS L=100U W=100U
* output stage
GO11 401 42 542 401 6.2500e-002
RO11 42 401 1.6000e+001
DO1 43 42 DOUT
GO12 401 43 542 401 6.2500e-002
RO12 43 401 1.6000e+001
EOUT1 44 43 33 401 -1.0
VOUT1 101 44 DC 8.691560e-001
ROUT1 101 401 1.0000e+009
GO21 401 46 542 401 -6.2500e-002
RO21 46 401 1.6000e+001
GO22 401 47 542 401 -6.2500e-002
RO22 47 401 1.6000e+001
DO2 47 46 DOUT
EOUT2 48 47 33 401 -1.0
VOUT2 102 48 DC 8.6916e-001
ROUT2 102 401 1.0000e+009
* supply characteristic
IVDD 200 0 DC 2.7000e-002
*IVSS 0 300 DC 1.0000e-003
RVSS 0 300  1.0000e+003
EGND 401 0 400 0 1.0000e+000
RGND 400 0 1.0000e+009
FA1 51 400 VOUT1 -1
FA2 51 400 VOUT2 -1
DAP 200 51 DX
DAN 52 400 DX
EGV 51 52 POLY(1) 200 400 -0.65 1.0
.MODEL DX  D IS=1e-12 RS=0 XTI=0
.MODEL D3P  D IS=1e-12 TT=0.0000e+000 CJO=0.3E-12 RS=0 XTI=0
.MODEL D3N  D IS=1e-12 TT=7.1850e-009 CJO=0.3E-12 RS=0 XTI=0
.MODEL DLATCH D IS=1e-12 TT=5.0000e-009 CJO=0.3E-12 RS=0 XTI=0
.MODEL SPMOS PMOS LEVEL=1 VTO=-3 KP=10
.MODEL SNMOS NMOS LEVEL=1 VTO=3 KP=10
.MODEL DOUT  D IS=8.0e-7 RS=0 XTI=0.0 N=0.1 EG=0.1
.ENDS COMP1116
** end nested subcircuit: COMP1116
.ENDS LT1116
