.SUBCKT LT1122     3 2 7 4 6 
*
* INPUT
RD1 4 80 3.5368E+02
RD2 4 90 3.5368E+02
J1 80 2 12 JM1 
J2 90 3 12 JM2 
CIN 2 3 4.0000E-12
C1 80 90 9.7411E-12
ISS 7 12 2.2500E-03
* INTERMEDIATE 
GCM 0 8 12 0 3.5595E-08
GA 8 0 80 90 2.8274E-03
R2 8 0 1.0000E+05
C2 1 8 3.0000E-11
GB 1 0 8 0 3.6103E+01
RO2 1 0 3.9000E+01
* OUTPUT 
RSO 1 6 1.0000E+00
ECL 18 0 1 6 1.3974E+01
GCL 0 8 20 0 1.0000E+00
RCL 20 0 1.0000E+03
D1 18 20 DM1 
D2 20 18 DM1 
* 
D3A 131 70 DM3 
D3B 13 131 DM3 
GPL 0 8 70 7 1.0000E+00
VC 13 6 3.6997E+00
RPLA 7 70 1.0000E+04
RPLB 7 131 1.0000E+05
D4A 60 141 DM3 
D4B 141 14 DM3 
GNL 0 8 60 4 1.0000E+00
VE 6 14 2.1997E+00
RNLA 60 4 1.0000E+04
RNLB 141 4 1.0000E+05
* 
IP 7 4 4.7500E-03
DSUB 4 7 DM2 
* MODELS 
.MODEL JM1 PJF (IS=2.9500E-11 BETA=1.7765E-03 VTO=-2.000000E+00)
.MODEL JM2 PJF (IS=2.4500E-11 BETA=1.7765E-03 VTO=-1.999400E+00)
.MODEL DM1 D (IS=1.0000E-15)
.MODEL DM2 D (IS=8.0000E-16 BV=4.8000E+01)
.MODEL DM3 D (IS=1.0000E-16)
.MODEL DM4 D (IS=1.0000E-09)
.ENDS LT1122
