.SUBCKT LT1125     3 2 7 4 6
X_LT1125 3 2 7 4 6 LT1124
** nested subcircuit: LT1124
.SUBCKT LT1124     3 2 7 4 6 
* INPUT
RC1 7  80 80 
RC2 7  90 80 
Q1  80 2  10 QM1 
Q2  90 3  11 QM2 
CIN 2  3  2.0000E-12
DDM1 2 104 DM2  
DDM3 104 3  DM2  
DDM2 3 105 DM2  
DDM4 105 2  DM2  
C1  80 91 10NF
RE1 10 12 -73
RE2 11 12 -73 
IEE 12 4  3.40E-04
RE  12 0  1.0100E+06
*
RXC1 91 90 25
CXC1 91 90 400E-12
RXC2 8 98 20K
C2 1 98 29E-12
CXC2  98 8 40.000E-12
* INTERMEDIATE 
GCM 0  8  12 0  3.4887E-09
GA  8  0  80 90 5.5292E-03
R2  8  0  1.0000E+05
GB  1  0  8  0  7.2964E+01
RO2 1  0  7.4000E+01
* OUTPUT 
RSO 1  6  1.0000E+00
ECL 18 0  1  6  3.6430E+01
GCL 0  8  20 0  1.0000E+00
RCL 20 0  1.0000E+01
D1  18 19 DM1  
VOD1 19 20 0.0000E+00
D2  20 21 DM1  
VOD2 21 18 0.0000E+00
* 
D3A 131 70 DM3 
D3B 13 131 DM3 
GPL 0  8  70 7  1.0000E+00
VC  13 6  2.6370E+00
RPLA 7  70 1.0000E+01
RPLB 7  131 1.0000E+03
D4A 60 141 DM3 
D4B 141 14  DM3 
GNL 0  8  60 4  1.0000E+00
VE  6  14 2.6370E+00
RNLA 60 4  1.0000E+01
RNLB 141 4  1.0000E+03
* 
IP  7  4  2.1020E-03
DSUB 4  7  DM2  
* MODELS 
.MODEL QM1 NPN (IS=8.0000E-16 BF=17.8E+03)
.MODEL QM2 NPN (IS=8.0077E-16 BF=37.8E+03)
.MODEL DM1  D   (IS=1.0000E-20)
.MODEL DM2  D   (IS=8.0000E-16 BV=5.2800E+01)
.MODEL DM3  D   (IS=1.0000E-16)
.ENDS LT1124
** end nested subcircuit: LT1124
.ENDS LT1125
