.SUBCKT LT1129     1   2   3   4   5
QPWR 51 54 52 Q1
RBASE 54 53 16.1E3
DDARl 53 84 DX
RDROP 51 1 0.4 TC=4.0E-3
RQC 1 3 106E3
VCURR 5 52 DC 0
FGND 5 3 POLY(1) VCURR  8.5E-6  0  0.097
FCL1 3 60 VCURR 0.31
RCL1 60 3 10
DCL1 60 61 DX
VCL1 61 62 DC 0
ECL1 62 3 POLY(1) 5 3 2.75 0.035
FCL2  90 3 VCL1 1.0
IBSD 5 4 DC 6.0E-6
DSDP1 4 70 DX
VSDP1 70 3 DC 6.2
DSDN1 71 4 DX
VSDN1 71 3 DC 0.595
GSD1 3 73 72 4 1.0E-1
RSD1 73 3 1.0E4
CSD1 73 3 2.2E-9
GTV1 3 72 POLY(1) 73 3 0.78E-3 1.20E-4
RTV1 72 3 1.0E3
DSDP2 73 74 DX
VSDP2 74 3 DC 2.90
DSDN2 75 73 DX
VSDN2 75 3 DC 0.85
QSD 90 77 3 Q2
RSD3 77 3 1.0E1
GSD3 3 77 73 3 5.3E-2
IBEA 3 80 DC 148.7E-6
REA1 80 3 1.0E3 TC=-4.6E-3
GEA1 2 3 80 3 1.0E-6
DEAP1 2 81 DX
VEAP1 81 3 DC 5.3
DEAN1 82 2 DX
VEAN1 82 3 DC 0.4
GEA2 3 84 2 90 10.0
REA2 84 3 1.0E3
CFEED 84 88 10.0E-9
RFEED 88 90 2.0E3
DREV 5 55 DX
RREV 55 3 1.0E9
DEAP2 84 85 DX
EEAP2 85 3 POLY(1) 55 3 -1.0 1.0
DEAN2 86 84 DX
VEAN2 86 3 DC 1.0
IREF1 3 90 DC 3.7502E-3
RREF1 90 3 1.0E3 TC=1.0E-4
GLINE 3 90 5 3 1.3E-8
GLOAD 90 3 51 1 24.6E-6
.MODEL DX D IS=8.0000E-016 RS=0 XTI=0
.MODEL Q1 PNP IS=1.0E-012 BF=11400 XTI=0 
.MODEL Q2 NPN IS=1.0E-016 BF=1000 XTI=0
.ENDS LT1129
